US09102637B2
(d) 5-[4-(4-methylpiperazin-1-yl)benzamido]-2-(quinolin-4-ylamino)thiazole-4-carboxamide
A mixture of 5-(4-fluorobenzamido)-2-(quinolin-4-ylamino)thiazole-4-carboxamide (110 mg, 0.27 mmol) and 1-methyl-piperazine (1.5 mL) in NMP (1.5 mL) was heated at 150° C. for 4 hrs. The reaction mixture was diluted with ice water (1 mL). The resulting solids were collected by filtration and washed successively with water and ether, and dried to give 0.090 g (69% yield) of the titled compound.

reactant | 5-(4-fluorobenzamido)-2-(quinolin-4-ylamino)thiazole-4-carboxamide | 0.27 mmol, 110 mg | FC1=CC=C(C(=O)NC2=C(N=C(S2)NC2=CC=NC3=CC=CC=C23)C(=O)N)C=C1 | C20H14FN5O2S
reactant | 1-methyl-piperazine | 1.5 mL | CN1CCNCC1 | C5H12N2
solvent | NMP | 1.5 mL | CN1CCCC1=O | C5H9NO
product | 5-[4-(4-methylpiperazin-1-yl)benzamido]-2-(quinolin-4-ylamino)thiazole-4-carboxamide | 0.090 g, 69% yield | CN1CCN(CC1)C1=CC=C(C(=O)NC2=C(N=C(S2)NC2=CC=NC3=CC=CC=C23)C(=O)N)C=C1 | C25H25N7O2S
